* File: MUX2_1.pex.netlist.pex
* Created: Thu Mar 27 20:12:32 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_MUX2_1%GND! 8 10 33 34 35 36 47 85
c3 10 0 0.0349084f
r4 94 97 10
r5 85 94 6.66667
r6 76 97 25.5802
r7 73 97 2.99177
r8 73 76 11.6667
r9 71 94 2.99177
r10 71 73 10
r11 69 71 1.66667
r12 66 85 7.99177
r13 66 69 6.66667
r14 28 76 12.142
r15 28 47 77.6786
r16 23 35 6.2963
r17 23 36 6.2963
r18 18 33 6.2963
r19 18 34 6.2963
r20 16 66 12.142
r21 16 18 66.0268
r22 10 76 6.82986
r23 10 28 0.431548
r24 8 23 66.4583
r25 8 10 206.633
r26 6 69 6.82986
r27 6 8 275.51
r28 2 66 2.27662
r29 2 16 0.431548
r30 2 6 137.755
.ends

.subckt PM_MUX2_1%VDD! 21 32 40 41 42 43 49 87
c3 32 0 0.0348853f
r4 93 98 10
r5 91 93 10
r6 87 91 0.555556
r7 80 98 25.5802
r8 76 80 10
r9 74 98 2.99177
r10 74 76 1.66667
r11 72 74 8.33333
r12 69 93 2.99177
r13 69 72 1.66667
r14 66 91 4.65844
r15 66 69 8.33333
r16 32 80 12.142
r17 32 49 77.6786
r18 24 76 12.142
r19 21 42 6.2963
r20 21 43 6.2963
r21 21 24 66.0268
r22 17 66 12.142
r23 14 40 6.2963
r24 14 41 6.2963
r25 14 17 66.0268
r26 8 76 2.27662
r27 8 24 0.431548
r28 8 32 207.064
r29 6 72 2.27662
r30 6 8 206.633
r31 2 66 2.27662
r32 2 17 0.431548
r33 2 6 206.633
.ends

.subckt PM_MUX2_1%S 16 17 18 19 60 67
c4 60 0 0.0055268f
r5 35 67 18.5679
r6 35 60 9.05427
r7 19 60 326.107
r8 17 60 319.583
r9 2 35 6.07099
r10 2 18 310.982
r11 2 16 310.982
.ends

.subckt PM_MUX2_1%A 6 7 25
c0 7 0 0.00232673f
r1 2 25 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_MUX2_1%NET1 23 24 33 37 81
c5 33 0 0.0107866f
r6 50 81 11.5816
r7 37 50 40.1087
r8 33 50 56.1607
r9 24 81 319.583
r10 23 81 326.107
.ends

.subckt PM_MUX2_1%B 6 7 25
c0 7 0 0.00174866f
r1 2 25 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_MUX2_1%NET3 20 21 27 28 31 32 65
c6 28 0 0.0135283f
r7 18 65 24.0412
r8 18 27 6.2963
r9 18 28 6.2963
r10 10 65 21.7498
r11 10 31 5.93915
r12 10 32 26.6534
r13 2 65 6.07099
r14 2 21 310.982
r15 2 20 310.982
.ends

.subckt PM_MUX2_1%OUT 13 17 45
c0 24 0 0.0077143f
r1 24 45 18.5679
r2 17 24 20.5774
r3 13 24 20.5774
.ends

.subckt PM_MUX2_1%NET7 7 8
c1 8 0 0.00659995f
r2 7 8 22.2354
.ends

.subckt PM_MUX2_1%NET6 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

.subckt PM_MUX2_1%NET2 7 8
c2 8 0 0.00659995f
r3 7 8 22.2354
.ends

.subckt PM_MUX2_1%NET5 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

