* File: XOR.pex.netlist.pex
* Created: Thu Mar 27 20:18:52 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%GND! 7 11 13 19 43 44 45 46 61 95
c4 45 0 0.0143482f
r5 95 105 5.30864
r6 89 105 25.5802
r7 87 105 2.99177
r8 87 89 11.6667
r9 84 87 1.66667
r10 81 84 3.33333
r11 79 81 3.33333
r12 77 95 7.68313
r13 77 79 1.66667
r14 38 89 12.142
r15 38 61 77.6786
r16 28 44 6.2963
r17 28 45 6.2963
r18 26 81 12.142
r19 26 28 66.0268
r20 19 77 13.8086
r21 19 43 71.5823
r22 13 89 6.82986
r23 13 38 0.431548
r24 11 46 72.0139
r25 11 13 137.755
r26 9 84 6.82986
r27 9 11 137.755
r28 7 26 0.431548
r29 7 9 68.8775
r30 5 79 2.27662
r31 5 7 68.8775
r32 5 19 69.3091
.ends

.subckt PM_XOR%VDD! 12 23 31 32 36 68
c3 23 0 0.0303284f
r4 68 78 5.80247
r5 62 78 25.5802
r6 60 62 10
r7 56 78 2.99177
r8 56 60 1.66667
r9 54 56 5
r10 52 68 8.85597
r11 52 54 3.33333
r12 23 62 12.142
r13 23 36 77.6786
r14 15 54 12.142
r15 12 31 6.2963
r16 12 32 6.2963
r17 12 15 66.0268
r18 7 60 2.27662
r19 7 23 207.064
r20 5 52 71.1542
r21 5 15 0.431548
r22 5 7 137.755
.ends

.subckt PM_XOR%A 7 11 12 13 14 49
c5 13 0 0.00383446f
r6 27 49 18.5679
r7 7 27 28.5472
r8 7 14 310.982
r9 7 12 310.982
r10 2 27 6.07099
r11 2 13 310.982
r12 2 11 310.982
.ends

.subckt PM_XOR%B 11 12 13 14 27 47
c3 13 0 0.00381848f
r4 27 47 18.5679
r5 7 27 17.4361
r6 7 14 310.982
r7 7 12 310.982
r8 2 27 6.07099
r9 2 13 310.982
r10 2 11 310.982
.ends

.subckt PM_XOR%NET2 18 19 25 26 29 45
c4 26 0 0.0102222f
r5 29 45 40.1087
r6 16 45 53.9385
r7 16 25 6.2963
r8 16 26 6.2963
r9 2 45 16.877
r10 2 19 310.982
r11 2 18 310.982
.ends

.subckt PM_XOR%NET3 13 14 15
c1 14 0 0.00770204f
r2 2 13 6.2963
r3 2 14 6.2963
r4 2 15 74.4237
.ends

.subckt PM_XOR%OUT 13 14 17 18 36 45
c5 14 0 0.00976173f
r6 36 45 18.5679
r7 11 36 42.0875
r8 11 17 6.2963
r9 11 18 6.2963
r10 5 36 53.1325
r11 5 13 6.2963
r12 5 14 6.2963
.ends

.subckt PM_XOR%NET1 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

.subckt PM_XOR%NET7 5 6
c2 6 0 0.00434723f
r3 5 6 12.5926
.ends

