* File: NAND2.pex.netlist
* Created: Thu Mar 27 20:13:41 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* 
.include "NAND2.pex.netlist.pex"
.subckt NAND2  GND! VDD! A B OUT
* 
* OUT	OUT
* B	B
* A	A
* VDD!	VDD!
* GND!	GND!
MM3 N_NET1_MM3_d N_A_MM3_g N_GND!_MM3_s N_GND!_MM3_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM2 N_OUT_MM2_d N_B_MM2_g N_NET1_MM2_s N_GND!_MM3_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM0 N_OUT_MM0_d N_A_MM0_g N_VDD!_MM0_s N_VDD!_MM0_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM1 N_OUT_MM1_d N_B_MM1_g N_VDD!_MM1_s N_VDD!_MM0_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
*
.include "NAND2.pex.netlist.NAND2.pxi"
*
.ends
*
*
