* File: NAND2.pex.netlist.pex
* Created: Thu Mar 27 20:13:41 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%GND! 27 32 42 72
c1 32 0 0.00728314f
r2 72 77 0.0617284
r3 61 77 11.1543
r4 61 66 1.66667
r5 57 61 5
r6 54 77 2.99177
r7 54 57 1.66667
r8 27 66 15.4753
r9 27 42 66.0268
r10 15 54 13.8086
r11 15 32 71.5823
r12 7 66 2.68554
r13 7 27 69.3091
r14 5 57 2.27662
r15 5 7 137.755
r16 5 15 69.3091
.ends

.subckt PM_NAND2%VDD! 40 41 49 77
c1 40 0 0.0100945f
r2 77 81 0.555556
r3 70 81 11.1543
r4 70 72 1.66667
r5 68 70 1.66667
r6 64 68 3.33333
r7 61 81 2.99177
r8 61 64 1.66667
r9 32 72 15.4753
r10 32 49 66.0268
r11 24 68 12.142
r12 24 41 71.5823
r13 17 61 13.8086
r14 17 40 71.5823
r15 9 72 3.41493
r16 9 32 69.3091
r17 7 24 0.431548
r18 7 9 68.8775
r19 5 64 2.27662
r20 5 17 69.3091
r21 5 7 68.8775
.ends

.subckt PM_NAND2%A 6 7 24
c0 7 0 0.00203175f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_NAND2%B 6 7 24
c1 7 0 0.00270355f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_NAND2%OUT 13 17 18 31 46
c1 18 0 0.00877413f
r2 31 46 18.5679
r3 13 31 35.4947
r4 5 31 33.2108
r5 5 17 6.2963
r6 5 18 6.2963
.ends

.subckt PM_NAND2%NET1 5 6
c0 6 0 0.00434612f
r1 5 6 12.5926
.ends

