************************************************************************
* auCdl Netlist:
* 
* Library Name:  Std_cells
* Top Cell Name: NOR2
* View Name:     schematic
* Netlisted on:  Mar 26 00:15:21 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Std_cells
* Cell Name:    NOR2
* View Name:    schematic
************************************************************************

.SUBCKT NOR2 A B OUT
*.PININFO A:I B:I OUT:O
MM1 OUT B gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM0 OUT A gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM3 net1 A vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM2 OUT B net1 vdd! pmos_rvt w=108.00n l=20n nfin=4
.ENDS

