* File: NOR2.pex.netlist.pex
* Created: Thu Mar 27 20:14:50 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2%GND! 7 41 42 55 84
c1 41 0 0.0109876f
r2 76 84 7.14198
r3 76 78 1.66667
r4 74 76 1.66667
r5 70 74 3.33333
r6 67 84 7.00412
r7 67 70 1.66667
r8 36 78 15.4753
r9 36 55 66.0268
r10 24 74 12.142
r11 24 42 71.5823
r12 17 67 13.8086
r13 17 41 71.5823
r14 9 78 2.68554
r15 9 36 69.3091
r16 7 24 0.431548
r17 7 9 68.8775
r18 5 70 2.27662
r19 5 7 68.8775
r20 5 17 69.3091
.ends

.subckt PM_NOR2%VDD! 23 31 36 65
c1 23 0 0.0179474f
r2 55 65 7.6358
r3 55 60 1.66667
r4 51 55 5
r5 48 65 6.51029
r6 48 51 1.66667
r7 23 60 15.4753
r8 23 36 66.0268
r9 15 48 13.8086
r10 15 31 71.5823
r11 7 60 3.41493
r12 7 23 69.3091
r13 5 51 2.27662
r14 5 15 69.3091
r15 5 7 137.755
.ends

.subckt PM_NOR2%A 6 7 24
c0 7 0 0.00203175f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_NOR2%B 6 7 24
c1 7 0 0.00270355f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_NOR2%OUT 13 14 17 31 46
c1 14 0 0.00877413f
r2 31 46 18.5679
r3 17 31 35.433
r4 2 13 6.2963
r5 2 14 6.2963
r6 2 31 33.149
.ends

.subckt PM_NOR2%NET1 5 6
c0 6 0 0.00434545f
r1 5 6 12.5926
.ends

