* File: OAI22.pex.netlist
* Created: Thu Mar 27 20:17:59 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* 
.include "OAI22.pex.netlist.pex"
.subckt OAI22  GND! VDD! C D B A OUT
* 
* OUT	OUT
* A	A
* B	B
* D	D
* C	C
* VDD!	VDD!
* GND!	GND!
MM7 N_NET6_MM7_d N_C_MM7_g N_GND!_MM7_s N_GND!_MM7_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM6 N_NET6_MM6_d N_D_MM6_g N_GND!_MM6_s N_GND!_MM7_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM5 N_OUT_MM5_d N_B_MM5_g N_NET6_MM5_s N_GND!_MM7_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM4 N_OUT_MM4_d N_A_MM4_g N_NET6_MM4_s N_GND!_MM7_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM3 N_NET3_MM3_d N_C_MM3_g N_VDD!_MM3_s N_VDD!_MM3_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM2 N_OUT_MM2_d N_D_MM2_g N_NET3_MM2_s N_VDD!_MM3_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM1 N_OUT_MM1_d N_B_MM1_g N_NET2_MM1_s N_VDD!_MM3_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM0 N_NET2_MM0_d N_A_MM0_g N_VDD!_MM0_s N_VDD!_MM3_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
*
.include "OAI22.pex.netlist.OAI22.pxi"
*
.ends
*
*
