* File: OAI21.pex.netlist.pex
* Created: Thu Mar 27 20:16:07 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_OAI21%GND! 21 26 36 64
c2 21 0 0.017658f
r3 58 64 10.0288
r4 56 58 1.66667
r5 52 56 6.66667
r6 49 64 5.95473
r7 49 52 1.66667
r8 21 58 17.142
r9 21 36 77.6786
r10 14 49 13.8086
r11 14 26 71.5823
r12 7 56 3.41493
r13 7 21 138.187
r14 5 52 2.27662
r15 5 7 137.755
r16 5 14 69.3091
.ends

.subckt PM_OAI21%VDD! 31 39 40 48 76
c2 39 0 0.00956186f
r3 71 76 10.5226
r4 68 71 1.66667
r5 64 68 6.66667
r6 61 76 5.46091
r7 61 64 1.66667
r8 31 71 17.142
r9 31 48 77.6786
r10 23 68 12.142
r11 23 40 71.5823
r12 16 61 13.8086
r13 16 39 71.5823
r14 7 68 3.41493
r15 7 23 0.431548
r16 7 31 138.187
r17 5 64 2.27662
r18 5 16 69.3091
r19 5 7 137.755
.ends

.subckt PM_OAI21%C 6 7 24
c0 7 0 0.00211447f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_OAI21%B 6 7 24
c2 7 0 0.00268469f
r3 2 24 24.6389
r4 2 7 310.982
r5 2 6 310.982
.ends

.subckt PM_OAI21%A 6 7 24
c1 7 0 0.00281296f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_OAI21%NET2 13 14 15
c1 14 0 0.00774465f
r2 5 15 84.7809
r3 5 13 6.2963
r4 5 14 6.2963
.ends

.subckt PM_OAI21%OUT 8 13 14 17 18 40 49
c3 18 0 0.00993936f
r4 40 49 18.5679
r5 8 13 6.2963
r6 8 14 6.2963
r7 8 40 33.2108
r8 5 40 36.5441
r9 5 17 6.2963
r10 5 18 6.2963
.ends

.subckt PM_OAI21%NET1 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

