* File: OAI22.pex.netlist.pex
* Created: Thu Mar 27 20:17:59 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22%GND! 2 20 25 26 35 63
c3 20 0 0.0303804f
r4 63 73 5.98765
r5 57 73 22.2469
r6 55 73 2.99177
r7 55 57 8.33333
r8 53 55 1.66667
r9 50 63 8.67078
r10 50 53 6.66667
r11 20 57 12.142
r12 20 35 77.6786
r13 15 25 6.2963
r14 15 26 6.2963
r15 13 50 12.142
r16 13 15 66.0268
r17 6 53 3.41493
r18 6 20 207.064
r19 2 50 2.27662
r20 2 13 0.431548
r21 2 6 137.755
.ends

.subckt PM_OAI22%VDD! 31 39 40 48 82
c3 39 0 0.00956272f
r4 82 91 6.48148
r5 77 91 22.2469
r6 74 77 6.66667
r7 69 91 2.99177
r8 69 74 1.66667
r9 66 69 8.33333
r10 63 82 6.51029
r11 63 66 1.66667
r12 31 77 12.142
r13 31 48 77.6786
r14 23 74 12.142
r15 23 40 71.5823
r16 16 63 13.8086
r17 16 39 71.5823
r18 7 74 2.27662
r19 7 23 0.431548
r20 7 31 138.187
r21 5 66 2.27662
r22 5 16 69.3091
r23 5 7 206.633
.ends

.subckt PM_OAI22%C 6 7 24
c0 7 0 0.00213276f
r1 2 24 24.6389
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_OAI22%D 6 7 24
c1 7 0 0.002759f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_OAI22%B 6 7 24
c2 7 0 0.00276972f
r3 2 24 24.6389
r4 2 7 310.982
r5 2 6 310.982
.ends

.subckt PM_OAI22%A 6 7 24
c1 7 0 0.00289799f
r2 2 24 24.6389
r3 2 7 310.982
r4 2 6 310.982
.ends

.subckt PM_OAI22%NET6 19 20 21 22 35
c2 21 0 0.0110904f
r3 22 35 43.323
r4 19 35 43.323
r5 11 35 31.1007
r6 11 20 6.2963
r7 11 21 6.2963
.ends

.subckt PM_OAI22%OUT 8 13 14 17 18 40 49
c3 18 0 0.0099394f
r4 40 49 18.5679
r5 8 13 6.2963
r6 8 14 6.2963
r7 8 40 33.2725
r8 5 40 36.5441
r9 5 17 6.2963
r10 5 18 6.2963
.ends

.subckt PM_OAI22%NET3 5 6
c0 6 0 0.00434545f
r1 5 6 12.5926
.ends

.subckt PM_OAI22%NET2 5 6
c1 6 0 0.00434545f
r2 5 6 12.5926
.ends

