************************************************************************
* auCdl Netlist:
* 
* Library Name:  Std_cells
* Top Cell Name: OAI21
* View Name:     schematic
* Netlisted on:  Mar 27 20:15:51 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Std_cells
* Cell Name:    OAI21
* View Name:    schematic
************************************************************************

.SUBCKT OAI21 A B C OUT
*.PININFO A:I B:I C:I OUT:O
MM2 OUT C vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM1 OUT B net1 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM0 net1 A vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM6 net2 C gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM5 OUT B net2 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM4 OUT A net2 gnd! nmos_rvt w=108.00n l=20n nfin=4
.ENDS

