************************************************************************
* auCdl Netlist:
* 
* Library Name:  Std_cells
* Top Cell Name: XOR
* View Name:     schematic
* Netlisted on:  Mar 26 00:26:58 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Std_cells
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B OUT
*.PININFO A:I B:I OUT:O
MM4 net3 net2 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM3 OUT A net3 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM2 OUT B net3 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM1 net2 A net1 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM0 net1 B vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM9 net7 A gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM8 OUT B net7 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM7 OUT net2 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM6 net2 A gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM5 net2 B gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
.ENDS

