* File: XOR.pex.netlist
* Created: Thu Mar 27 20:18:52 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* 
.include "XOR.pex.netlist.pex"
.subckt XOR  GND! VDD! A B OUT
* 
* OUT	OUT
* B	B
* A	A
* VDD!	VDD!
* GND!	GND!
MM6 N_NET2_MM6_d N_A_MM6_g N_GND!_MM6_s N_GND!_MM6_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM5 N_NET2_MM5_d N_B_MM5_g N_GND!_MM5_s N_GND!_MM6_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM7 N_OUT_MM7_d N_NET2_MM7_g N_GND!_MM7_s N_GND!_MM6_b NMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM8 N_OUT_MM8_d N_B_MM8_g N_NET7_MM8_s N_GND!_MM6_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM9 N_NET7_MM9_d N_A_MM9_g N_GND!_MM9_s N_GND!_MM6_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM1 N_NET2_MM1_d N_A_MM1_g N_NET1_MM1_s N_VDD!_MM1_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM0 N_NET1_MM0_d N_B_MM0_g N_VDD!_MM0_s N_VDD!_MM1_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM4 N_NET3_MM4_d N_NET2_MM4_g N_VDD!_MM4_s N_VDD!_MM1_b PMOS_RVT L=2e-08
+ W=1.08e-07 NFIN=4
MM2 N_OUT_MM2_d N_B_MM2_g N_NET3_MM2_s N_VDD!_MM1_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM3 N_OUT_MM3_d N_A_MM3_g N_NET3_MM3_s N_VDD!_MM1_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
*
.include "XOR.pex.netlist.XOR.pxi"
*
.ends
*
*
