************************************************************************
* auCdl Netlist:
* 
* Library Name:  mark_std_cells
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  Mar 18 23:01:50 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: mark_std_cells
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A OUT
*.PININFO A:I OUT:O
MM2 OUT A gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM5 OUT A vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
.ENDS

